US06008213
a) 4-Bromo-N-formyl-2-(phenoxy)aniline
Using the general procedure of J. Chem. Soc., Perkin I 1976, 1279-1285, 4-bromo-2-(phenoxy)aniline, prepared as described in J. Chem. Soc., 1930, 1202-1208, is heated with formic acid to afford the title compound.

reactant | 4-bromo-2-(phenoxy)aniline | BrC1=CC(=C(N)C=C1)OC1=CC=CC=C1 | C12H10BrNO
reactant | formic acid | C(=O)O | CH2O2
product | 4-Bromo-N-formyl-2-(phenoxy)aniline | BrC1=CC(=C(NC=O)C=C1)OC1=CC=CC=C1 | C13H10BrNO2
